US20010046993A1
D. 1-[2-(4-Benzyl-1-piperazinyl)ethyl]cyclopentanecarboxamide
A mixture of 1-[2-(4-benzyl-1-piperazinyl)ethyl]cyclopentanecarboxylic acid (300 mg, 0.948 mmol), NH4HCO3 and 2-ethoxy-N-ethoxycarbonyl-1,2-dihydroquinoline (469 mg, 3.49 mmol) in chloroform (5.0 ml) was stirred for 2 d. To the mixture was added sat NaHCO3 (3 ml) and the mixture was extracted with dichloromethane After the solvent was removed in vacuo, the residue was extracted with dichloromethane (30 ml). The extract was washed with brine, dried over Na2SO4, filtered and concentrated in vacuo . The residue was purified by column chromatography (SiO2, 200-350 mesh/21 g/dichloromethane:methanol=97:3) to provide a yellow oil (174 mg/58%).

reactant | 1-[2-(4-benzyl-1-piperazinyl)ethyl]cyclopentanecarboxylic acid | 0.948 mmol, 300 mg | C(C1=CC=CC=C1)N1CCN(CC1)CCC1(CCCC1)C(=O)O | C19H28N2O2
reactant | 2-ethoxy-N-ethoxycarbonyl-1,2-dihydroquinoline | 3.49 mmol, 469 mg | C(C)OC1N(C2=CC=CC=C2C=C1)C(=O)OCC | C14H17NO3
reactant | NaHCO3 | 3 ml | C(=O)(O)[O-].[Na+]
solvent | chloroform | 5.0 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-[2-(4-Benzyl-1-piperazinyl)ethyl]cyclopentanecarboxamide | C(C1=CC=CC=C1)N1CCN(CC1)CCC1(CCCC1)C(=O)N | C19H29N3O
